US04855462
To a stirred solution of 3-dibenz[b,e]oxepin-11(6H)-ylidene-N-methyl-1-propanamine (10.0 g, 0.033 mol) in DMF (80 mL) were added 6-bromo-1-[4-(1,1-dimethylethyl)phenyl]-1-hexanone (10.3 g, 0.033 mol) and potassium bicarbonate (6.6 g, 0.066 mol). The mixture was heated to 75°-80° C. under nitrogen for 28 hours. The reaction was cooled to ambient temperature, diluted with water (300 mL) and extracted with ethyl acetate (2×150 mL). The combined ethyl acetate extracts were washed with water (3×150 mL) and saturated NaCl (100 mL) and dried over magnesium sulfate. Removal of solvent gave an oil of 17.1 g. This oil was dissolved in 2-propanol (100 mL) and acidified with HCl gas. The solution was diluted to 400 mL with anhydrous ether and cooled. The solid was collected by filtration, recrystallized twice from ethyl acetate-methanol (15:1),and vacuum dried at 70° C. for 92 hours to provide 5.69 g of 3-dibenz[b,e]oxepin-11(6H)-ylidene-N-methyl-N-[6-[4-(1,1-dimethylethyl)phenyl]-6-oxohexyl]-1-propanamine hydrochloride, mp 159°-161° C.

reactant | 3-dibenz[b,e]oxepin-11(6H)-ylidene-N-methyl-1-propanamine | 0.033 mol, 10.0 g | C1=CC=CC=2OCC3=C(C(C21)=CCCNC)C=CC=C3 | C18H19NO
reactant | 6-bromo-1-[4-(1,1-dimethylethyl)phenyl]-1-hexanone | 0.033 mol, 10.3 g | BrCCCCCC(=O)C1=CC=C(C=C1)C(C)(C)C | C16H23BrO
reactant | potassium bicarbonate | 0.066 mol, 6.6 g | C([O-])(O)=O.[K+]
reactant | HCl | Cl | ClH
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | water | 300 mL | O | H2O
solvent | 2-propanol | 100 mL | CC(C)O | C3H8O
solvent | ether | CCOCC | C4H10O
product | 3-dibenz[b,e]oxepin-11(6H)-ylidene-N-methyl-N-[6-[4-(1,1-dimethylethyl)phenyl]-6-oxohexyl]-1-propanamine hydrochloride | 5.69 g | Cl.C1=CC=CC=2OCC3=C(C(C21)=CCCN(CCCCCC(=O)C2=CC=C(C=C2)C(C)(C)C)C)C=CC=C3 | InChI=1S/C34H41NO2.ClH/c1-34(2,3)28-21-19-26(20-22-28)32(36)17-6-5-11-23-35(4)24-12-16-30-29-14-8-7-13-27(29)25-37-33-18-10-9-15-31(30)33;/h7-10,13-16,18-22H,5-6,11-12,17,23-25H2,1-4H3;1H
